US07834035B2
A mixture of N-hydroxy-4-fluoro-benzamidine (0.758 g, 4.92 mmol), 4-methyl-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester (4.92 mmol), prepared as described in 62(B), EDCI.HCl (1.41 g, 7.38 mmol), HOBT (0.665 g, 4.92 mmol) and anhydrous triethylamine (1.38 mL, 9.84 mmol) in dioxane (80 mL) was stirred at room temperature for a week-end, under nitrogen atmosphere. Then, the reaction mixture was refluxed for 7 h and the solvent was evaporated under reduced pressure. The residue was diluted with water (50 mL) and ethyl acetate (50 mL), the phases were separated and the organic layer was washed sequentially with water (50 mL×2 times) and with NaOH 1N (50 mL×2 times). The organic layer was dried over Na2SO4 and concentrated under reduced pressure to give a yellow oil. Purification of the crude by flash chromatography (silica gel, eluent gradient: from hexane/ethyl acetate 8/2 to hexane/ethyl acetate 7/3) afforded 0.312 g of 3-[3-(4-fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-4-methyl-piperazine-1-carboxylic acid tert-butyl ester as a yellow oil.

reactant | N-hydroxy-4-fluoro-benzamidine | 4.92 mmol, 0.758 g | ONC(C1=CC=C(C=C1)F)=N | C7H7FN2O
reactant | 4-methyl-piperazine-1,3-dicarboxylic acid 1-tert-butyl ester | 4.92 mmol | C(C)(C)(C)OC(=O)N1CC(N(CC1)C)C(=O)O | C11H20N2O4
reactant | EDCI.HCl | 7.38 mmol, 1.41 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 4.92 mmol, 0.665 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 9.84 mmol, 1.38 mL | C(C)N(CC)CC | C6H15N
solvent | dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 3-[3-(4-fluoro-phenyl)-[1,2,4]oxadiazol-5-yl]-4-methyl-piperazine-1-carboxylic acid tert-butyl ester | 0.312 g | C(C)(C)(C)OC(=O)N1CC(N(CC1)C)C1=NC(=NO1)C1=CC=C(C=C1)F | C18H23FN4O3
